US04215139
4 g of 2-[(p-phenoxy)phenoxy]ethylamine and 11.2 g of chlorothioformic acid S-ethyl ester are dissolved in 150 ml of acetone. 14.5 g of potassium carbonate are added to the solution. This mixture is heated under reflux for 6 hours and then filtered. The residue is washed with acetone and the filtrate is evaporated in vacuo. The crystalline residue is suspended in cyclohexane and filtered to yield 2.5 g (53%) of 2-[(p-phenoxy)phenoxy]ethylthiocarbamic acid S-ethyl ester, m.p.--56°-58° C.

reactant | 2-[(p-phenoxy)phenoxy]ethylamine | 4 g | O(C1=CC=CC=C1)C1=CC=C(OCCN)C=C1 | C14H15NO2
reactant | chlorothioformic acid S-ethyl ester | 11.2 g | C(C)SC(=O)Cl | C3H5ClOS
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2-[(p-phenoxy)phenoxy]ethylthiocarbamic acid S-ethyl ester | 2.5 g, 53% | C(C)SC(NCCOC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C17H19NO3S
